US06903086B2
To a solution of methyl-5-phenyl-2-aminobenzoate (0.40 g, 1.76 mmol) and pyridine (0.285 mL, 3.52 mmol) in toluene (7 mL) at room temperature under argon was added 20% phosgene in toluene (1.32 mL, 2.55 mmol) and the mixture was heated at 90° C. for 1 h. The mixture was filtered, and the filtrate was concentrated to dryness. The crude material was dissolved in toluene (10 mL), biphenyl-4-methanol (0.270 g, 1.46 mmol) and DMAP (0.018 g, 0.146 mmol) were added and the mixture was heated at 90° C. for 18 h. The solvent was evaporated to dryness to give 0.51 g of 4-(biphenyl-4-ylmethoxycarbonylamino)-biphenyl-3-carboxylic acid methyl ester.

reactant | methyl-5-phenyl-2-aminobenzoate | 1.76 mmol, 0.40 g | COC(C1=C(C=CC(=C1)C1=CC=CC=C1)N)=O | C14H13NO2
reactant | pyridine | 3.52 mmol, 0.285 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | biphenyl-4-methanol | 1.46 mmol, 0.270 g | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 0.146 mmol, 0.018 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 2.55 mmol, 1.32 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(biphenyl-4-ylmethoxycarbonylamino)-biphenyl-3-carboxylic acid methyl ester | 0.51 g | COC(=O)C=1C=C(C=CC1NC(=O)OCC1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H23NO4
